US04318913
N'-Cyano-N-[3-[3-(1,3-dioxolan-2-yl)phenoxy]propyl]-1-methyl-2-(phenylmethylene)hydrazinecarboximidamide
3-[3-(1,3,-Dioxolan-2-yl)phenoxy]propanamine (8.92 g) and N-cyano-1-methyl-2-(phenylmethylene) hydrazinecarboximidothioic acid methyl ester (9.28 g) were heated under water-pump vacuum at 80° for 4 h to yield the title compound, a pale yellow glass (16.03 g). TLC silica; ethyl acetate:cyclohexane 1:1; Rf 0.2 NMR (CDCl3) 2.3-2.2 m (10H); 4.36 s (1H), 5.8-6.1 m (8H); 6.55 s (3H); 7.83 m (2H).

reactant | 3-[3-(1,3,-Dioxolan-2-yl)phenoxy]propanamine | 8.92 g | O1C(OCC1)C=1C=C(OCCCN)C=CC1 | C12H17NO3
reactant | N-cyano-1-methyl-2-(phenylmethylene) hydrazinecarboximidothioic acid methyl ester | 9.28 g | CSC(=NC#N)N(N=CC1=CC=CC=C1)C | C11H12N4S
product | N'-Cyano-N-[3-[3-(1,3-dioxolan-2-yl)phenoxy]propyl]-1-methyl-2-(phenylmethylene)hydrazinecarboximidamide | C(#N)N=C(NCCCOC1=CC(=CC=C1)C1OCCO1)N(N=CC1=CC=CC=C1)C | C22H25N5O3
